US04983596
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-hydroxypropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine (9.5 g) in acetic acid (150 ml) were added triethylamine (15 ml) and methanesulfonyl chloride (2 ml) at -40° C. and the mixture was stirred at the same temperature for 2 hours under nitrogen atmosphere. Resulting precipitate was filtered off and the filtrate was concentrated in vacuo to give a residue, which was dissolved in a mixture of ethyl acetate (100 ml) and water (50 ml). The organic layer was separated, washed with brine (50 ml) and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (300 ml) eluting with a mixture of hexane and ethyl acetate (1:1 V/V) to give (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-methanesulfonyloxypropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine (3.74 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-hydroxypropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine | 9.5 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(CC(=O)OCC)O | C20H29NO9S
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-methanesulfonyloxypropyl}oxymethyl]-4-methanesulfonyloxypyrrolidine | 3.74 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(CC(=O)OCC)OS(=O)(=O)C | C21H31NO11S2
